US07531653B2
Preparation of 1-Chlorophthalazine Hydrochloride
A 3-neck 2 L round-bottomed flask was charged with phosphorous oxychloride (306 g, 2 mol. eq.) and cooled to about 0 to 5° C. To this was added 73 g of powdered phthalazinone (0.5 mol eq.). The reaction mass appeared as a suspension and was heated to about 60° C. with stirring. The progress of the reaction was monitored by HPLC. While the reaction mixture was maintained at approximately 50° C., about 65% of the phosphorous oxychloride was distilled out under vacuum. The concentrated reaction mixture was cooled to room temperature, about 375 mL of ethyl acetate was added, and then the mixture was purged with HCl gas for about 30 min.; thereafter, the mixture was cooled to a temperature of 0 to 5° C. and stirred for about one hour. The resulting pale yellow material was filtered and washed with 150 mL of cold ethyl acetate. The isolated material was 1-chlorophthalazine hydrochloride, which was dried under vacuum for about 3 hrs at 30° C. Yield =65%; purity=99%.

reactant | phosphorous oxychloride | 2 mol, 306 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phthalazinone | 0.5 mol, 73 g | C=1C=CC=2C(C1)=CN=NC2O | C8H6N2O
solvent | ethyl acetate | about 375 mL | C(C)(=O)OCC | C4H8O2
product | 1-Chlorophthalazine Hydrochloride | Cl.ClC1=NN=CC2=CC=CC=C12 | InChI=1S/C8H5ClN2.ClH/c9-8-7-4-2-1-3-6(7)5-10-11-8;/h1-5H;1H
